US05455260
To 500 ml THF cooled to -78° C. is added butyl lithium (2 eq.) followed by 4-bromobenzyl alcohol (27.2 g; 145 mmol) slowly over 45 minutes in a solution of THF (100 ml) keeping the temperature below -72° C. After 10 minutes following the final addition of the alcohol is added 2-chlorobenzoxazole (23.3 g; 145 mmol) in 25 ml THF slowly over 45 minutes. The temperature is maintained at -78° C. for 1 hour and then warmed to -40° C. for 15 minutes. The reaction is then quenched with 15 ml of acetic acid and allowed to warm to room temperature, diluted with 800 ml ether, washed 3× with H2O and brine, dried (MgSO4) and concentrated in vacuo to obtain a brown oily solid which is washed with 400 ml petroleum ether and filtered to obtain 4-(benzoxazol-2 -yl)benzyl alcohol as a tan solid which is used directly in Step B.

reactant | butyl lithium | 2 eq. | C(CCC)[Li]
reactant | 4-bromobenzyl alcohol | 145 mmol, 27.2 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | 2-chlorobenzoxazole | 145 mmol, 23.3 g | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-(benzoxazol-2 -yl)benzyl alcohol | O1C(=NC2=C1C=CC=C2)C2=CC=C(CO)C=C2 | C14H11NO2
